### PR TITLE
feat: multivariate gauss norm API and a lemma to discharge hdom in mul_eq_mul

### PR DESCRIPTION
**Pull request by WilliamCoram**
We add some missing API as well as lemmas that compute explicit values of the gauss norm (e.g. on monomials, X, C). Finally, we add a lemma that will be used to discharge `hdom` in `mul_eq_mul` in applications.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 1]
```diff
@@ -8,6 +8,7 @@ module
 public import Mathlib.RingTheory.MvPowerSeries.Basic
 public import Mathlib.Algebra.Order.Ring.IsNonarchimedean
 public import Mathlib.Analysis.Normed.Group.Basic
+public import Mathlib.Algebra.Group.UniqueProds.Basic
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]:
```suggestion
public import Mathlib.Algebra.Order.Archimedean.Real.Basic
public import Mathlib.Algebra.Order.BigOperators.GroupWithZero.Finset
```

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 2]
```diff
@@ -262,6 +336,46 @@ lemma gaussNorm_mul_eq_mul (f g : MvPowerSeries σ R) (hf : HasGaussNorm v c f)
   · exact gaussNorm_le_mul v c f g vMulEq vNA (by grind) hfg hdom
   · exact gaussNorm_mul_le v c f g (StrongLT.le hc) vNonneg (by grind) vNA vZero hf hg
 
+-- consumer lemma for `hdom` in `gaussNorm_mul_eq_mul`
+lemma exists_achievesGaussNorm_dominant (vNonneg : ∀ a, v a ≥ 0)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean:340]: Does this work for a semiring?

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 3]
```diff
@@ -162,14 +167,83 @@ lemma gaussNorm_mul_le (f g : MvPowerSeries σ R) (hc : 0 ≤ c) (vNonneg : ∀
...
+lemma gaussNorm_one (vZero : v 0 = 0) (vNonneg : ∀ a, v a ≥ 0) :
+    gaussNorm v c 1 = v 1 := by
+  simpa using gaussNorm_C v c vZero vNonneg 1
+
+lemma gaussNorm_X (vZero : v 0 = 0) (vNonneg : ∀ a, v a ≥ 0) (s : σ) (hc : 0 ≤ c s) :
+    gaussNorm v c (X s) = v 1 * c s := by
+  simpa [X_def] using gaussNorm_monomial_of_nonneg v c vZero vNonneg (Finsupp.single s 1) 1
+    (by aesop)
+
+lemma gaussNorm_zero_right (vNonneg : ∀ a, v a ≥ 0) (f : MvPowerSeries σ R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]:
```suggestion
lemma gaussNorm_of_c_eq_zero (vNonneg : ∀ a, v a ≥ 0) (f : MvPowerSeries σ R) :
```
Maybe?

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: Also, I would state using `v (constantCoeff f)` since this is the `simp` normal form.

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 4]
```diff
@@ -162,14 +167,83 @@ lemma gaussNorm_mul_le (f g : MvPowerSeries σ R) (hc : 0 ≤ c) (vNonneg : ∀
       (mul_nonneg (vNonneg _) (c_prod_nonneg c hc k.2)) (gaussNorm_nonneg v c f vNonneg))
   · exact mul_nonneg (gaussNorm_nonneg v c f vNonneg) (gaussNorm_nonneg v c g vNonneg)
 
+lemma hasGaussNorm_of_finite_support (vZero : v 0 = 0) {f : MvPowerSeries σ R}
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean]: Note that `f` is explicit in the rest of the tile. I think it's good to be consistent.

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean [hunk 5]
```diff
@@ -262,6 +336,46 @@ lemma gaussNorm_mul_eq_mul (f g : MvPowerSeries σ R) (hf : HasGaussNorm v c f)
...
+    (hg_fin : {a | AchievesGaussNorm v c g a}.Finite)
+    (hf_ex : ∃ a, AchievesGaussNorm v c f a) (hg_ex : ∃ a, AchievesGaussNorm v c g a)
+    (hf0 : gaussNorm v c f ≠ 0) (hg0 : gaussNorm v c g ≠ 0) :
+    ∃ i j, AchievesGaussNorm v c f i ∧ AchievesGaussNorm v c g j ∧
+      (∀ p ∈ Finset.antidiagonal (i + j), p ≠ (i, j) →
+        v (coeff p.1 f * coeff p.2 g) < v (coeff i f) * v (coeff j g)) := by
+  obtain ⟨i, hi, j, hj, hij⟩ := UniqueSums.uniqueAdd_of_nonempty (hf_ex.imp fun _ ha ↦
+    hf_fin.mem_toFinset.mpr ha) (hg_ex.imp fun _ ha ↦ hg_fin.mem_toFinset.mpr ha)
+  rw [Set.Finite.mem_toFinset] at hi hj
+  refine ⟨i, j, hi, hj, fun p hp hpne ↦ ?_⟩
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean:353]: There is only one goal after this `refine`, right? If this is the case there is no need for the dot.

Comment (WilliamCoram) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean:353]: Ah yes, you are right. This was a hangover from an old statement that had an extra constructor on the end to prove

File: Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean (hunk 2 above)
Comment (WilliamCoram) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean:340]: I haven't tested this, I will check - but I remember mul_le_mul required ring, so the generalisation shouldn't buy anything in practice. 

Note these also really only exist because in the case of restricted power series we will be able to discharge all these hypothesis.

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/GaussNorm.lean:340]: OK, it's not very important.
